US05639752
C. 3-(N-t-Butoxycarbonylpiperid-4-yl)-5-(3-nitropyrid-2-ylamino)-1H-indole
5-Amino-3-(N-t-butoxycarbonylpiperid-4-yl)-1H-indole and 2-chloro-3-nitropyridine were used. Triethylamine was the base, dioxane was the reaction solvent, the reaction was heated at reflux (101° C.) for 5 hours, and the chromatographic solvent system was ethyl acetate [30-40%] in hexanes to afford the title compound (70%) as a dark red foam: 1H NMR (CDCl3) δ155.8, 155.0, 151.6, 135.5, 134.6, 129.4, 126.9, 121.3, 120.8, 119.8, 114.8, 113.1, 111.5, 79.4, 44.5, 33.6, 32.8, 28.5. Anal. calcd. for C23H27N5O4.1/4 C4H8O2 [ethyl acetate]: C, 62.73; H, 6.36; N, 15.24. Found: C, 62.51; H, 6.08; N, 15.21.

reactant | 5-Amino-3-(N-t-butoxycarbonylpiperid-4-yl)-1H-indole | NC=1C=C2C(=CNC2=CC1)C1CCN(CC1)C(=O)OC(C)(C)C | C18H25N3O2
reactant | 2-chloro-3-nitropyridine | ClC1=NC=CC=C1[N+](=O)[O-] | C5H3ClN2O2
reactant | Triethylamine | C(C)N(CC)CC | C6H15N
reactant | dioxane | O1CCOCC1 | C4H8O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-(N-t-Butoxycarbonylpiperid-4-yl)-5-(3-nitropyrid-2-ylamino)-1H-indole | 70% | C(C)(C)(C)OC(=O)N1CCC(CC1)C1=CNC2=CC=C(C=C12)NC1=NC=CC=C1[N+](=O)[O-] | C23H27N5O4
